US04127579
(A) 2-(4-Piperidinyl)benzoxazole
A solution of 1.71 g of benzyl bromide in 10 ml of acetonitrile is added to a solution of 1.96 g of 2-(4-pyridinyl)benzoxazole in 25 ml of hot acetonitrile. After 10 minutes the product begins to crystallize out of solution. The mixture is heated on the steam bath for 2 hours and then diluted with ether and filtered. The crude solid is dissolved in 50 ml of 1:1 methanol-water and treated portionwise with 2 g of sodium borohydride. The mixture is diluted with water and 2.4 g of the solid product is collected. The 2.4 g of solid is dissolved in 150 ml of ethanol, 2 g of 5% paladium on carbon is added, and the mixture is placed on the Parr hydrogenator under 50 psi hydrogen. The mixture is filtered, and the filtrate evaporated in vacuo to give 1.4 g of the title compound.

reactant | benzyl bromide | 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(4-pyridinyl)benzoxazole | 1.96 g | N1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C12H8N2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-(4-Piperidinyl)benzoxazole | 1.4 g | N1CCC(CC1)C=1OC2=C(N1)C=CC=C2 | C12H14N2O
